US07589232B2
Step b) Formation of 4-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]-2-hydroxybenzoic acid
The titled compound was prepared following the procedure C using N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)hexanamide in the presence of THF as a pale yellow powder (81%). 1H NMR (CDCl3, 300 MHz) δ 10.62 (s, 1H), 7.86 (d, J=8.3 Hz, 1H), 7.41 (m, 4H), 7.15 (m, 4H), 6.69 (m, 1H), 6.55 (m, 0.5H), 6.53 (m, 0.5H), 4.90 (s, 2H), 2.60 (t, J=7.6 Hz, 2H), 2.17 (t, J=7.6 Hz, 2H), 1.68-1.52 (m, 4H), 1.40-1.28 (m, 2H), 1.27-1.13 (m, 4H), 0.93 (t, J=7.3 Hz, 3H), 0.91 (t, J=6.8 Hz, 3H). M− (ESI): 496.7; M1(ESI): 498.1. HPLC, Rt: 5.92 min (Purity: 97.5%).

reactant | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)hexanamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCCCC)=O)C=2C=CC3=C(OC(OC3=O)(C)C)C2)C=C1 | C35H39NO4
solvent | THF | C1CCOC1 | C4H8O
product | 4-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]-2-hydroxybenzoic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C2=CC(=C(C(=O)O)C=C2)O)C(CCCCC)=O)C=C1 | C32H35NO4
